US06348463B1
NMM—N—methylmorpholine;
EtOAc—ethyl acetate; MeOH—methanol; BOC—butoxycarbonyl; DCM—dichloromethane, ACOH—acetic acid; DIPEA—N,N-diisopropylethylamine; DMF—dimethylformamide; LDA—lithium N,N-diisopropylamide; mCPBA—3-chloroperoxybenzoic acid

reactant | EtOAc ethyl acetate | CCOC(=O)C.C(C)(=O)OCC | 2C4H8O2
reactant | DIPEA N,N-diisopropylethylamine | CCN(C(C)C)C(C)C.C(C)(C)N(C(C)C)CC | 2C8H19N
reactant | LDA lithium N,N-diisopropylamide | [Li+].CC(C)[N-]C(C)C.C(C)(C)[N-]C(C)C.[Li+]
reactant | mCPBA 3-chloroperoxybenzoic acid | C1=CC(=CC(=C1)Cl)C(=O)OO.ClC=1C=C(C(=O)OO)C=CC1 | 2C7H5ClO3
solvent | DMF dimethylformamide | CN(C)C=O.CN(C=O)C | 2C3H7NO
solvent | DCM dichloromethane | C(Cl)Cl.ClCCl | 2CH2Cl2
solvent | MeOH methanol | CO.CO | 2CH4O
product | NMM N—methylmorpholine | CN1CCOCC1.CN1CCOCC1 | 2C5H11NO
